US09238640B2
To a solution of 2-amino-6-methoxy-benzamide (1.00 g, 6.01 mmol) and 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde (1.28 g, 6.59 mmol) in N,N-dimethylacetamide (15 mL) were added NaHSO3 (58.5 wt %, 0.68 g, 6.50 mmol) and p-TSA (0.23 g, 1.20 mmol) and the reaction mixture was heated at 115° C. for 20 hours, and cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure. The residue was diluted with water (50 mL), stirred for 30 minutes, and then filtered. The solid was suspended in dichloromethane (30 mL), stirred for 1 h, filtered, and dried under vacuum to give 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5-methoxy-3H-quinazolin-4-one as an off-white solid. Yield: 1.1 g (55%).

reactant | 2-amino-6-methoxy-benzamide | 6.01 mmol, 1.00 g | NC1=C(C(=O)N)C(=CC=C1)OC | C8H10N2O2
reactant | 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde | 6.59 mmol, 1.28 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | NaHSO3 | 6.50 mmol, 0.68 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.20 mmol, 0.23 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-5-methoxy-3H-quinazolin-4-one | OCCOC1=C(C=C(C=C1C)C1=NC2=CC=CC(=C2C(N1)=O)OC)C | C19H20N2O4
